US05155113
Preparation of 4-propanoyloxy-2-pyridone
Using 1.00 g of 4-hydroxy-2-pyridone and 0.94 ml of propanoyl chloride and following the general procedure of Example 12, 350 mg of the title compound was obtained in a yield of 23%.

reactant | 4-hydroxy-2-pyridone | 1.00 g | OC1=CC(NC=C1)=O | C5H5NO2
reactant | propanoyl chloride | 0.94 ml | C(CC)(=O)Cl | C3H5ClO
product | 4-propanoyloxy-2-pyridone | 350 mg, yield of 23% | C(CC)(=O)OC1=CC(NC=C1)=O | C8H9NO3
